US04748165
A solution of 5-[4-(2-methylguanidino)-1,2,3-triazol-2-yl]valeronitrile (0.8 g.) in a mixture of chloroform (15 ml.) and MeOH (5 ml.) was saturated at 0° with hydrogen chloride gas and the mixture maintained at 0° for 3 days. The mixture was evaporated to dryness and the residue basified with cold sodium carbonate solution and extracted witn chloroform. The extract was dried and evaporated to give methyl 5-[4-(2-methylguanidino)1,2,3-triazol-2-yl]valerimidate as a yellow oil (1.07 g.).

reactant | 5-[4-(2-methylguanidino)-1,2,3-triazol-2-yl]valeronitrile | 0.8 g | CN=C(NC1=NN(N=C1)CCCCC#N)N | C9H15N7
reactant | hydrogen chloride | Cl | ClH
reactant | MeOH | 5 ml | CO | CH4O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-[4-(2-methylguanidino)1,2,3-triazol-2-yl]valerimidate | CN=C(NC1=NN(N=C1)CCCCC(OC)=N)N | C10H19N7O
